US07723331B2
d) tert-Butyl (2S)-2-{[(6-{[2-(4-methoxyphenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate
To a solution of 2-(4-methoxyphenyl)thieno[2,3-d]pyridazin-7(6H)-one (455 mg, 1.76 mmol) in DMF (5 ml), was added NaH 60% (110 mg, 2.52 mmol) in small portions. The mixture was stirred at rt. for 10 min before addition of tert-butyl (2S)-2-{[(6-{[(methylsulfonyl)oxy]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate (672 mg, 1.68 mmol) dissolved in DMF (3 ml). The reaction was stirred at rt. for 16 h, water (150 ml) and DCM (150 ml) added and the phases separated. The aqueous phase was extracted with DCM (150 ml). The combined organic phases were dried through a phase separator and evaporated in vacuo. Purification by silica gel flash chromatography using a 40+M Biotage column with a gradient of 30-100% EtOAc in heptane yielded the title compound as a light yellow solid. Yield: 354 mg (36%). 1H NMR (400 MHz, CDCl3) δ 8.17 (s, 1H), 7.61 (m, 2H), 7.46 (t, 1H, J=7.8 Hz), 7.34 (s, 1H), 6.96 (m, 2H), 6.71 (d, 1H, J=7.3 Hz), 6.55 (d, 1H, J=8.2 Hz), 5.47 (s, 2H), 4.50 (m, 1H), 4.30 (m, 2H), 3.94 (d, 1H, J=10.7 Hz), 3.85 (s, 3H), 2.74 (t, 1H, J=12.2 Hz), 1.67-1.20 (m, 15H). MS (ESI+) 563.30 (M+1H+)

reactant | 2-(4-methoxyphenyl)thieno[2,3-d]pyridazin-7(6H)-one | 1.76 mmol, 455 mg | COC1=CC=C(C=C1)C1=CC2=C(C(NN=C2)=O)S1 | C13H10N2O2S
reactant | NaH | 2.52 mmol, 110 mg | [H-].[Na+]
reactant | tert-butyl (2S)-2-{[(6-{[(methylsulfonyl)oxy]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate | 1.68 mmol, 672 mg | CS(=O)(=O)OCC1=CC=CC(=N1)OC[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C18H28N2O6S
reactant | water | 150 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (2S)-2-{[(6-{[2-(4-methoxyphenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate | COC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=CC=CC(=N2)OC[C@H]2N(CCCC2)C(=O)OC(C)(C)C)=O)S1 | C30H34N4O5S
